US08530468B2
N-(2-Bromobenzyl)-2,2-diethoxyacetamide
1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide (1.15 g, 6.00 mmol) was added to a mixture of 2-bromobenzylamine (0.744 g, 4.00 mmol), sodium 2,2-diethoxyacetate (0.816 g, 4.80 mmol), 1-hydroxybenzotriazole hydrate (0.919 g, 6.00 mmol) and Hunig's base (1.53 mL, 8.80 mmol) in DMF (10 mL) with stirring. After 18 hours at room temperature, the mixture was partitioned between water and ethyl acetate. The organic layer was washed successively with 2 M HCl, saturated sodium bicarbonate solution and brine, then dried (Na2SO4) and concentrated to a viscous colourless oil (1.02 g, 81%). LC-MS (1) Rt==2.23 min; m/z (ESI+) 316 & 318 (M+H+).

reactant | 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide | 6.00 mmol, 1.15 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 2-bromobenzylamine | 4.00 mmol, 0.744 g | BrC1=C(CN)C=CC=C1 | C7H8BrN
reactant | sodium 2,2-diethoxyacetate | 4.80 mmol, 0.816 g | C(C)OC(C(=O)[O-])OCC.[Na+]
reactant | 1-hydroxybenzotriazole hydrate | 6.00 mmol, 0.919 g | O.ON1N=NC2=C1C=CC=C2
reactant | Hunig's base | 8.80 mmol, 1.53 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(2-Bromobenzyl)-2,2-diethoxyacetamide | BrC1=C(CNC(C(OCC)OCC)=O)C=CC=C1 | C13H18BrNO3
